US04382090
Preparation of N-methyl-N'-2-(2-dimethylaminomethyl-4-thiazolylmethylthio)ethyl-N"-cyanoguanidine
Following the above procedure, but substituting ethylamine for methylamine in the reaction with N-2-(2-dimethylaminomethyl-4-thiazolylmethylthio)ethyl-N'-cyanocarbamidothioate, N-ethyl-N'-2-(2-dimethylaminomethyl-4-thiazolylmethylthio)ethyl-N"-cyanoguanidine was prepared.

reactant | methylamine | CN | CH5N
reactant | N-ethyl-N'-2-(2-dimethylaminomethyl-4-thiazolylmethylthio)ethyl-N"-cyanoguanidine | C(C)NC(=NC#N)NCCSCC=1N=C(SC1)CN(C)C | C13H22N6S2
product | N-methyl-N'-2-(2-dimethylaminomethyl-4-thiazolylmethylthio)ethyl-N"-cyanoguanidine | CNC(=NC#N)NCCSCC=1N=C(SC1)CN(C)C | C12H20N6S2
